US08236943B2
Step 1: Synthesis of Phytanol:
Phytol (21.0 g, 70.8 mmol), ethanol (180 mL) and a stir bar were added to a 500 mL round bottom flask. Raney Nickel 2800 (as purchased, a 50% by weight solution in water if used as purchased, Nickel >89% metal present) (6.8 g, 51.5 mmol) was added, and the flask sealed and flushed with hydrogen. A 12″ needle was used to bubble hydrogen through the solution for 10 minutes. The reaction was stirred for 5 days, using a balloon as a hydrogen reservoir. Hydrogen was also bubbled through the reaction mixture at 24 h and 48 h, 5 minutes each time. The metal catalyst was then removed by filtering through Celite. The ethanolic solution was concentrated, and 200 mL of DCM added to the resulting oil. The solution was washed with water (2×100 mL), dried over MgSO4, and concentrated. TLC indicated formation of the phytanol product, yield 20.0 g.

reactant | Phytol | 70.8 mmol, 21.0 g | CC(C)CCC[C@@H](C)CCC[C@@H](C)CCC\C(\C)=C\CO | C20H40O
reactant | ethanol | 180 mL | C(C)O | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
solvent | water | O | H2O
product | Phytanol | C(CC(C)CCCC(C)CCCC(C)CCCC(C)C)O | C20H42O
